US06479531B1
Step a. 4-Adamantan-1-yl-3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric Acid Ethyl Ester
To a solution of 4-adamantan-1-yl-3-oxo-butyric acid ethyl ester, prepared by a modification of Wierenga and Skulnick's procedure (W. Wierenga and H. I. Skulnick, J. Org. Chem., 1979, 44, 310)(3.00 g, 11.0 mmol) in acetone (30 ml) was added sodium iodide (0.55 g, 3.67 mmol) and anhydrous potassium carbonate (3.04 g, 22.0 mmol), then a solution of 2-bromo-1-phenyl-ethanone (2.38 g, 11.5 mmol) in acetone (10 ml). The mixture was stirred at reflux for 36 h, cooled to room temperature and filtered. The filtrate was evaporated, the residue was dissolved in diethyl ether (50 ml) and washed with water (2×20 ml). The organic phase was dried (MgSO4) and the solvent was evaporated. The residue was purified by flash column chromatography (silica, hexane/ethyl acetate 4:1) to afford the product as pale yellow oil (1.92 g, 46%). 1H NMR (300 MHz, CDCl3) 7.98 (2H, m), 7.65 (1H, m), 7.46 (2H, m), 4.19 (3H, m), 3.60 (1H, dd), 5.59 (1H, dd), 2.50 (2H, dd), 1.96 (3H, br s), 1.68 (12H, m), 1.29 (3H, t).

reactant | 4-adamantan-1-yl-3-oxo-butyric acid ethyl ester | C(C)OC(CC(CC12CC3CC(CC(C1)C3)C2)=O)=O | C16H24O3
reactant | sodium iodide | 3.67 mmol, 0.55 g | [I-].[Na+]
reactant | potassium carbonate | 22.0 mmol, 3.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1-phenyl-ethanone | 11.5 mmol, 2.38 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-Adamantan-1-yl-3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric Acid Ethyl Ester | 1.92 g, 46% | C(C)OC(C(C(CC12CC3CC(CC(C1)C3)C2)=O)CC(C2=CC=CC=C2)=O)=O | C24H30O4
